US07371767B2
2-(1H-Pyrrol-3-yl)pyridine (0.144 g, 11.0 mmol), 3-fluorobenzonitrile (1.21 g, 10 mmol), and potassium carbonate (0.0.276 g, 2 mmol) were heated at 145° C. in DMF (0.5 mL) for 14 h. After this time, the reaction mixture was cooled to rt and quenched with H2O (30 mL). The mixture was extracted with EtOAc (3×25 mL) and the combined organic extracts washed with brine. The organic phase was dried over Na2SO4, concentrated in vacuo and the residue was chromatographed on silica gel eluting with EtOAc:hexane (2:3) to afford a white solid which was recrystallized from dichloromethane-hexane to give 3-(3-pyridin-2-yl-1H-pyrrol-1-yl)benzonitrile as white crystals. 1H NMR (CD3Cl, 300 MHz) δ 8.59 (ddd, 1H), 7.78˜7.71 (m, 3H), 7.68 (dd, 1H), 7.62˜7.53 (m, 3H), 7.17˜7.11 (m, 2H), 6.89 (dd, 1H). MS (ES) 246.1 (M++H).

reactant | 2-(1H-Pyrrol-3-yl)pyridine | 11.0 mmol, 0.144 g | N1C=C(C=C1)C1=NC=CC=C1 | C9H8N2
reactant | 3-fluorobenzonitrile | 10 mmol, 1.21 g | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | potassium carbonate | 2 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-(3-pyridin-2-yl-1H-pyrrol-1-yl)benzonitrile | N1=C(C=CC=C1)C1=CN(C=C1)C=1C=C(C#N)C=CC1 | C16H11N3
